US03978069
5.9 g diphenyl-chloroacetonitrile (prepared from diphenyl-chloroacetamide, Ber. 41, 3593 by heating in phosphorus oxychloride; b.p. 130°C./0.4 mm Hg) are heated with 5 g imidazole in 50 ml acetonitrile at boiling temperature for 18 hours. After treating with 20 ml of water, the mixture is extracted with methylene chloride. The solvent is distilled off after drying in a vacuum. The solid residue is recrystallized from ethyl acetate/petroleum ether. Diphenyl-imidazolyl-acetonitrile i.e. diphenyl-imidazolyl-acetic acid nitrile of m.p. 98°C. is thus obtained.

reactant | diphenyl-chloroacetonitrile | 5.9 g | C1(=CC=CC=C1)C(C#N)(Cl)C1=CC=CC=C1 | C14H10ClN
reactant | imidazole | 5 g | N1C=NC=C1 | C3H4N2
reactant | water | 20 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Diphenyl-imidazolyl-acetonitrile | C1(=CC=CC=C1)C(C#N)(C=1NC=CN1)C1=CC=CC=C1 | C17H13N3
